US08242145B2
Step 4: {3-[4-Bromo-2-((S)-2-oxo-4-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester
To {3-(4-Bromo-2-[((S)-2-hydroxy-1-phenyl-ethylamino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester (0.43 mmol) and triethylamine (0.18 mL, 1.29 mmol) in toluene (1.5 mL) at 0° C. was added phosgene (1.9M in toluene; 0.23 mL, 0.43 mmol). The reaction was stirred for 15 minutes at 0° C., until no starting material was seen by analytical LCMS, and then worked-up with 5% brine and EtOAc. The aqueous layer was extracted twice with EtOAc, and the combined organic layers were dried and concentrated. The residue was purified by silica gel chromatography (20-30% EtOAc in hexanes) to give the desired product (0.086 g).

reactant | {3-(4-Bromo-2-[((S)-2-hydroxy-1-phenyl-ethylamino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester | 0.43 mmol | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN[C@H](CO)C1=CC=CC=C1)=O | C24H24BrNO4
reactant | triethylamine | 1.29 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.43 mmol, 1.9M, 0.23 mL | C(=O)(Cl)Cl | CCl2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | brine | [Cl-].[Na+].O
product | {3-[4-Bromo-2-((S)-2-oxo-4-phenyl-oxazolidin-3-ylmethyl)-phenoxy]-phenyl}-acetic acid methyl ester | 0.086 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN1C(OC[C@@H]1C1=CC=CC=C1)=O)=O | C25H22BrNO5
